US09233981B1
Step 4. Synthesis of 2-{[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}-N-hydroxyethanimine (C15)
To a mixture of {[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}acetaldehyde (C14) (207 g, ≦0.63 mol) and sodium acetate (342 g, 4.17 mol) in aqueous ethanol (2:1 ethanol/water, 2.1 L) was added hydroxylamine hydrochloride (207 g, 2.98 mol). The reaction mixture was stirred at 60° C. for 18 hours, then concentrated in vacuo and extracted with ethyl acetate (2.0 L). The combined organic layers were dried over sodium sulfate, filtered, concentrated under reduced pressure and purified by chromatography on silica gel (Eluent: ethyl acetate in petroleum ether) to afford the product as a brown oil. By 1H NMR, this was assigned as a mixture of geometric isomers at both the oxime and olefin functional groups. Yield: 117 g, 0.444 mol, 70% over three steps. 1H NMR (400 MHz, CDCl3), characteristic peaks: δ [7.42-7.48 (m) and 6.88-6.92 (m), total 1H], 7.20-7.36 (m, 5H), 5.29-5.61 (m, 2H), [4.48-4.54 (m) and 4.41-4.45 (m), total 3H], 2.13-2.32 (m, 2H), 1.54-1.65 (m, 3H).

reactant | {[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}acetaldehyde | ≦0.63 mol, 207 g | C(C1=CC=CC=C1)OC[C@@H](CC=CC)OCC=O | C15H20O3
reactant | sodium acetate | 4.17 mol, 342 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.98 mol, 207 g | Cl.NO
solvent | ethanol | 2.1 L | C(C)O | C2H6O
product | 2-{[(2R)-1-(benzyloxy)hex-4-en-2-yl]oxy}-N-hydroxyethanimine | C(C1=CC=CC=C1)OC[C@@H](CC=CC)OCC=NO | C15H21NO3
